* Z:\mnt\spice-netlists\LTM4608A.asc
V1 IN 0 5
R1 N003 0 6.65K
C1 OUT 0 22µ
C2 IN 0 10µ
C3 OUT 0 100µ
C4 IN 0 150µ
R2 IN N002 10K
C5 OUT N003 47p
Rload OUT 0 0.1875
XU1 OUT 0 NC_01 IN MP_02 NC_03 MP_04 MP_05 MP_06 N001 NC_07 NC_08 0 MP_09 MP_10 MP_11 MP_12 MP_13 MP_14 N004 NC_15 N002 MP_16 MP_17 MP_18 MP_19 MP_20 MP_21 N003 N001 MP_22 NC_23 0 N001 MP_24 MP_25 N001 NC_26 LTM4608
R3 IN N004 50K
R4 N004 0 50K
.tran 300u startup
* LTM4608A - 8A, Step-Down DC/DC µModule in 15mm×9mm LGA package\nInput: 5V     Output: 1.5V @ 8A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
.lib LTM4608.sub
.backanno
.end
